US04507498
A mixture of 0.871 g of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, 2.536 g of 4-[4-acetyl-3-[4-(4-iodobutoxy)butoxy]-2-propylphenoxy]butanoic acid ethyl ester and 0.94 g of anhydrous potassium carbonate in 40 ml of anhydrous acetone was stirred at reflux for 17 hours. An additional 1.0 g of potassium carbonate was added and reflux was continued for 25 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo to an oil which was chromatographed on 200 g of silica gel. Elution with 20% ethyl acetate-toluene gave 2.71 g (96% yield) of 4-[4-acetyl-3-[4-[4-(4-acetyl-3-hydroxy-2-propylphenoxy)butoxy]butoxy]-2-propylphenoxy]butanoic acid ethyl ester as an oil.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 0.871 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | 4-[4-acetyl-3-[4-(4-iodobutoxy)butoxy]-2-propylphenoxy]butanoic acid ethyl ester | 2.536 g | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCCCOCCCCI)CCC)=O | C25H39IO6
reactant | potassium carbonate | 0.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 4-[4-acetyl-3-[4-[4-(4-acetyl-3-hydroxy-2-propylphenoxy)butoxy]butoxy]-2-propylphenoxy]butanoic acid ethyl ester | 2.71 g, 96% yield | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCCCOCCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C36H52O9
